US07524873B2
Step 1) N-((1R)-1-Phenylethyl)(3-bromo-4-methylphenyl)carboxamide
To a 500 mL Erlenmeyer flask equipped with a stir bar was added 100 mL of sat. aq. NaHCO3 solution followed by 2.79 g of (R)-α-methylbenzylamine (0.023 mol) in 100 mL of CH2CH2. 3-Bromo-4-methylbenzoyl chloride in CH2Cl2 (from above) was added dropwise to the Erlenmeyer flask and the reaction mixture was continued to stir at RT for 16 hours. The organic phase was diluted with 50 mL of CH2CH2, separated from aqueous phase, dried over Na2SO4 and concentrated in vacuo. The residue was washed with 50 mL of Et2O and dried in an oven at 40 C overnight to afford light yellow solid (7.0 g, 0.022 mol, 96%).

reactant | NaHCO3 | 100 mL | C(=O)(O)[O-].[Na+]
reactant | (R)-α-methylbenzylamine | 0.023 mol, 2.79 g | C[C@H](C1=CC=CC=C1)N | C8H11N
reactant | 3-Bromo-4-methylbenzoyl chloride | BrC=1C=C(C(=O)Cl)C=CC1C | C8H6BrClO
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | N-((1R)-1-Phenylethyl)(3-bromo-4-methylphenyl)carboxamide | 0.022 mol, 7.0 g, 96% | C1(=CC=CC=C1)[C@@H](C)NC(=O)C1=CC(=C(C=C1)C)Br | C16H16BrNO
